US06589978B2
Reaction of DL-proline methylester with toluene-4-sulfonyl chloride according to the general procedure of example 1d yielded (RS)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester as a white solid, m.p.=93° C. and MS: m/e=283 (M+).

reactant | DL-proline methylester | COC(C1NCCC1)=O | C6H11NO2
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (RS)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C13H17NO4S
